US05595685
In a 100 ml-three-necked flask, 2.26 g (20,0 mM) of ethylisocyanoacetate and 27 ml of tetrahydrofuran were placed. To the mixture, 2.99 ml (20.0 mM) of 1,8-diazobicyclo[5,4,0]-7-undecene (DBU) was added on an ice water bath under stirring. To the mixture, a solution of 4.84 g (20.0 mM) of heptanoic anhydride in 7 ml of tetrahydrofuran was added dropwise on the ice water bath under stirring, followed by stirring for 4.5 hours at room temperature. The reaction mixture was further left standing for 2 days at room temperature. The resultant reaction mixture was poured into water, followed by extraction with ethyl acetate. The organic layer was dried with anhydrous sodium sulfate and further dried under reduced pressure. The residue was purified by silica gel column chromatography (eluent: toluene/ethyl acetate=100/1) to provide 4.28 g of ethyl 5-hexyloxazole-4-carboxylate (Yield: 95.1%). Then, 2.10 g (9.32 mM) of ethyl 5-hexyloxazole-4-carboxylate and 28.4 ml of 6N-hydrochloric acid were placed in a 100 ml-round-bottomed flask, followed by heat-refluxing for 5 hours under stirring. After the reaction, the reaction mixture was washed two times with ethyl acetate. The water layer was dried under reduced pressure. The residue was recrystallized from a mixture solvent of methanol-isopropyl ether to obtain 0.67 g of 2-oxooctylamine hydrochloride (Yield: 40.0%).

reactant | ethylisocyanoacetate | 20,0 mM, 2.26 g | C(C)OC(C[N+]#[C-])=O | C5H7NO2
reactant | heptanoic anhydride | 20.0 mM, 4.84 g | C(CCCCCC)(=O)OC(CCCCCC)=O | C14H26O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 27 ml | O1CCCC1 | C4H8O
product | ethyl 5-hexyloxazole-4-carboxylate | 4.28 g, Yield: 95.1% | C(CCCCC)C1=C(N=CO1)C(=O)OCC | C12H19NO3
